US04371536
5 ml of 2 molar aqueous sodium nitrite solution is added dropwise, while cooling intensively with ice, to a suspension of 2.7 g of 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester in 15 ml of 3 N sulphuric acid. After 20 minutes, the diazotizing solution is quickly added dropwise to a solution at 60° C. of 1.2 g of copper (I) cyanide in 8 ml of 4.5 molar sodium cyanide solution. After heating for 30 minutes at 60° C., the solution is allowed to stand at room temperature for 2 hours and is then suction-filtered. The filter residue is extracted by boiling with methanol. The combined filtrates are concentrated by evaporation and chromatographed on silica gel with chloroform/ethanol (95:5). 6-Cyano-4-methyl-β-carbolin-3-carboxylic acid ethyl ester of melting point 268°-276° C. (decomposition) is obtained in 25% yield.

reactant | sodium nitrite | 2 molar, 5 ml | N(=O)[O-].[Na+]
reactant | 6-amino-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 2.7 g | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)N | C15H15N3O2
reactant | copper (I) cyanide | 1.2 g | [Cu]C#N
solvent | sulphuric acid | 3 N, 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | sodium cyanide | 4.5 molar, 8 ml | [C-]#N.[Na+]
product | 6-Cyano-4-methyl-β-carbolin-3-carboxylic acid ethyl ester | 25% yield | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1C)C#N | C16H13N3O2
